US07153878B2
4-(2-Methoxycarbonyl-ethyl)-3-methyl-benzoic acid
A mixture of 4-(2-methoxycarbonyl-vinyl)-3-methyl-benzoic acid benzyl ester (11.6 g, 37.4 mmol) and Pd/C (5%, 1.5 g) in THF (300 mL) and methanol (100 mL) is stirred under 60 psi of hydrogen overnight. Catalyst is filtered off, filtrate is concentrated giving the title compound (8.3 g, 100%).

reactant | 4-(2-methoxycarbonyl-vinyl)-3-methyl-benzoic acid benzyl ester | 37.4 mmol, 11.6 g | C(C1=CC=CC=C1)OC(C1=CC(=C(C=C1)C=CC(=O)OC)C)=O | C19H18O4
reactant | hydrogen | [H][H] | H2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | 4-(2-Methoxycarbonyl-ethyl)-3-methyl-benzoic acid | 8.3 g, 100% | COC(=O)CCC1=C(C=C(C(=O)O)C=C1)C | C12H14O4
